US08383660B2
(5-Bromo-pyrazin-2-yl)-[2-(1-morpholin-4-yl-propyl)-5-trifluoromethyl-benzyl]-amine
To a solution of 2-(2-Methyl-1-morpholin-4-yl-propyl)-5-trifluoromethyl-benzaldehyde (126 mg, 0.418 mmol) in THF (0.5 mL) was added 2-amino-5-bromopyrazine (81 mg, 0.465 mmol) followed by titanium isopropoxide (0.2 uL; 0.675 mmol). The resulting mixture was stirred at 70° C. for 16 hours. The reaction mixture was cooled to room temperature and diluted with MeOH (0.5 mL). To this was added sodium borohydride (20 mg, 0.528 mmol). The resulting mixture is stirred at room temperature for 16 hours. Ethyl acetate and water were added and stirred for 15 minutes. Reaction is poured over a pad of celite and silica gel. The mother liquor is washed with water (2×) and brine. The organic layer is dried with anhydrous sodium sulfate, filtered, and concentrated. The residue was purified by flash chromatography (silica gel) (eluting with 10-50% ethyl acetate/hexanes) to afford the title compound (97 mg, 0.205 mmol).

reactant | 2-(2-Methyl-1-morpholin-4-yl-propyl)-5-trifluoromethyl-benzaldehyde | 0.418 mmol, 126 mg | CC(C(N1CCOCC1)C1=C(C=O)C=C(C=C1)C(F)(F)F)C | C16H20F3NO2
reactant | 2-amino-5-bromopyrazine | 0.465 mmol, 81 mg | NC1=NC=C(N=C1)Br | C4H4BrN3
reactant | sodium borohydride | 0.528 mmol, 20 mg | [BH4-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.5 mL | CO | CH4O
catalyst | titanium isopropoxide | 0.675 mmol, 0.2 uL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | water | O | H2O
product | (5-Bromo-pyrazin-2-yl)-[2-(1-morpholin-4-yl-propyl)-5-trifluoromethyl-benzyl]-amine | 0.205 mmol, 97 mg | BrC=1N=CC(=NC1)NCC1=C(C=CC(=C1)C(F)(F)F)C(CC)N1CCOCC1 | C19H22BrF3N4O
